US09315490B2
269a) Methyl 1-(5-(4-methylpyridin-2-yl)pyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate
PdCl2(dppf) (0.325 g, 0.397 mmol) was added to a suspension of methyl 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate (3.0 g, 7.96 mmol), bis(pinacolato)diboron (2.26 g, 8.91 mmol) and potassium acetate (2.34 g, 23.87 mmol) in dioxane (80 mL) that was stirred under an argon atmosphere. The reaction mixture was stirred for 1 h at 110° C. and then cooled to room temperature. 2-Bromo-4-methyl-pyridine (2.05 g, 11.93 mmol), 2M potassium carbonate solution (8.0 mL) and tetrakis(triphenylphosphine)palladium(0) (0.46 g, 0.398 mmol) were added at this temperature and the resulting mixture was stirred for 16 h at 100° C. The reaction mixture was filtered through a pad of celite, the filter was washed with dichloromethane/methanol (9:1) and the filtrate was concentrated under reduced pressure. The remnant was purified by column chromatography [100-200 mesh silica; dichloromethane ethyl acetate/hexane=5/20/75]. Yellow solid. Yield: 2.0 g (64% of theory)

reactant | methyl 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate | 7.96 mmol, 3.0 g | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)OC)SC | C15H12BrN3O2S
reactant | bis(pinacolato)diboron | 8.91 mmol, 2.26 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 23.87 mmol, 2.34 g | C(C)(=O)[O-].[K+]
reactant | 2-Bromo-4-methyl-pyridine | 11.93 mmol, 2.05 g | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | potassium carbonate | 2M, 8.0 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.397 mmol, 0.325 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.398 mmol, 0.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 1-(5-(4-methylpyridin-2-yl)pyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate | CC1=CC(=NC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)OC)SC | C21H18N4O2S
